US06251057B1
In the same apparatus and procedure as Example 1 above, 0.15 g (0.75 mmol) of tri-n-butylphosphine, 0.95 g (7.5 mmol) of benzyl chloride, and 4.31 g (37.5 mmol) of methyldichlorosilane were reacted at 200° C. for 2 hrs. The resulting mixture was distilled to give 0.31 g of benzylmethyldichlorosilane (bp; 214-215° C./740 mmHg, yield; 20%).

reactant | tri-n-butylphosphine | 0.75 mmol, 0.15 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | benzyl chloride | 7.5 mmol, 0.95 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | methyldichlorosilane | 37.5 mmol, 4.31 g | C[SiH](Cl)Cl | CH4Cl2Si
product | benzylmethyldichlorosilane | 0.31 g, yield; 20% | C(C1=CC=CC=C1)C[SiH](Cl)Cl | C8H10Cl2Si
